US06080752
cis-1,2,3,4,4a,5,6,10b-Octahydrobenzo[f]quinoline
1-Chloroethylchloroformate (2.01 ml, 18.61 mmol) was added with stirring to an ice-cooled solution of cis-and trans-4-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinoline (1.66 g, 8.34 mmol) in dichloromethane (60 ml). The mixture was allowed to warm to room temperature and stirred for a further 2 h. Diisopropylethylamine (2.2 ml, 12.6 mmol) was added and the mixture heated at reflux for 1 h. The mixture was cooled and concentrated in vacuo, dissolved in methanol and refluxed for 1 h. After cooling, the solvent was removed and the residue partitioned between saturated aqueous K2CO2 and dichloromethane (4×50 ml). The combined organic extracts were washed with water, dried (Na2SO4) and the solvent evaporated to afford an oil. Chromatography on silica using 10% methanol-ethyl acetate with 6.6 ml/L 0.880 ammonia as eluent gave the trans-isomer of the title compound (260 mg, 33%) as the first eluting product.

reactant | 1-Chloroethylchloroformate | 18.61 mmol, 2.01 ml | ClC(C)OC(=O)Cl | C3H4Cl2O2
reactant | trans-4-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinoline | 8.34 mmol, 1.66 g | CN1CCC[C@H]2C3=C(CC[C@H]12)C=CC=C3 | C14H19N
reactant | Diisopropylethylamine | 12.6 mmol, 2.2 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | ammonia | N | H3N
product | cis-1,2,3,4,4a,5,6,10b-Octahydrobenzo[f]quinoline | 260 mg, 33% | C1CCN[C@H]2CCC3=C([C@@H]12)C=CC=C3 | C13H17N
